US04210750
Benzyl carbamate is prepared by dissolving 354 mg. (3.28 mmoles) benzyl alcohol in 3 ml. methylene chloride in a 2-neck 10 ml. flask fitted with a condenser topped with a drying tube and serum cap. The solution is cooled in an ice bath and 0.48 ml. (770 mg., 3.5 mmoles) of trichloroethoxycarbonyl isocyanate is introduced with a syringe through the serum cap. An exotherm is noted. After stirring at room temperature for 40 minutes, the solution is concentrated to an oil and recrystallized from cyclohexane to yield 980 mg. of benzyl 2,2,2-trichloroethyl imidodicarboxylate, m.p. 88.5°-89.5° C. An analytical sample has a m.p. 89.5°-90.5° C.

reactant | benzyl alcohol | 3.28 mmoles | C(C1=CC=CC=C1)O | C7H8O
reactant | trichloroethoxycarbonyl isocyanate | 3.5 mmoles, 770 mg | ClC(COC(=O)N=C=O)(Cl)Cl | C4H2Cl3NO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzyl carbamate | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
